US04666504
4-Carboxy-1-(3-chloro-4-methylphenyl)-5-pyrazolecarboxamide.
A 9.5 g. portion of ethyl 1-(3-chloro-4-methylphenyl)-5-cyano-4-pyrazolecarboxylate was dissolved in 250 ml. of ethanol, and 2 g. of potassium hydroxide was added. The mixture was then stirred under reflux for 30 minutes. One hundred ml. of water was added, and the mixture was stirred under reflux for an additional 4 hours. Isolation of the product was attempted, but it was found to be a difficultly separable mixture, and the entire reaction mixture was returned to the flask, redissolved in aqueous ethanol and refluxed for 1 hour on the steam bath with 6 g. of additional potassium hydroxide. The mixture was then diluted with aqueous acetic acid and filtered, and the solids were dried and identified as 5.2 g. of the desired product, m.p. 228°-232° dec. It was identified by elemental analysis.

reactant | ethyl 1-(3-chloro-4-methylphenyl)-5-cyano-4-pyrazolecarboxylate | ClC=1C=C(C=CC1C)N1N=CC(=C1C#N)C(=O)OCC | C14H12ClN3O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Carboxy-1-(3-chloro-4-methylphenyl)-5-pyrazolecarboxamide | C(=O)(O)C=1C=NN(C1C(=O)N)C1=CC(=C(C=C1)C)Cl | C12H10ClN3O3
